US05196454
(a) 5-Acetylamino-2-(1-phenylethylamino)-tetraline (mixture of diastereoisomers)
Starting from 16.24 g (0.08 mol) of 5-acetylamino-2-tetralone, 240 ml of methanol, 19.0 g (0.12 mol) of (R)-1-phenylethylamine-hydrochloride and 6.0 g (0.096 mol) of sodium cyanoborohydride, the title compound is obtained analogously to Example 4.1.11 and is crystallised from 75 ml of toluene. Yield 18.5 g (74.9% of theory), melting point 158° C. It consists of approximately equal parts of the (R/R)- and (S/R)-diastereoisomers.

reactant | 5-acetylamino-2-tetralone | 0.08 mol, 16.24 g | C(C)(=O)NC1=C2CCC(CC2=CC=C1)=O | C12H13NO2
reactant | (R)-1-phenylethylamine-hydrochloride | 0.12 mol, 19.0 g | Cl.C1(=CC=CC=C1)[C@@H](C)N
reactant | sodium cyanoborohydride | 0.096 mol, 6.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 240 ml | CO | CH4O
product | 5-Acetylamino-2-(1-phenylethylamino)-tetraline | C(C)(=O)NC1=C2CCC(CC2=CC=C1)NC(C)C1=CC=CC=C1 | C20H24N2O
